US03998834
A mixture of 6.4 parts of sodium carbonate and 120 parts of 4-methyl-2-pentanone is stirred and refluxed with water-separator. Then there are added 4.1 parts of N-[4-(methoxymethyl)-4-piperidinyl]-N-phenylpropanamide and 5.5 parts of [2-(1-naphthalenyl)ethyl]4-methylbenzenesulfonate and the whole is stirred and refluxed for 20 hours. The reaction mixture is cooled to room temperature and poured onto water. The organic phase is separated, washed with water, dried, filtered and evaporated. The oily residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and 7% of methanol as eluent. The pure fractions are collected and the eluent is evaporated. The oily residue solidifies on triturating in hexane. The product is filtered off and crystallized from a small amount of 2,2'-oxybispropane, yielding 2.8 parts (43.4%) of N-{4-(methoxymethyl)-1-[2-(1-naphthalenyl)ethyl]-4-piperidinyl}-N-phenylpropanamide; mp. 109.8° C.

reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
reactant | N-[4-(methoxymethyl)-4-piperidinyl]-N-phenylpropanamide | COCC1(CCNCC1)N(C(CC)=O)C1=CC=CC=C1 | C16H24N2O2
reactant | [2-(1-naphthalenyl)ethyl]4-methylbenzenesulfonate | C1(=CC=CC2=CC=CC=C12)CCOS(=O)(=O)C1=CC=C(C=C1)C | C19H18O3S
solvent | water | O | H2O
product | N-{4-(methoxymethyl)-1-[2-(1-naphthalenyl)ethyl]-4-piperidinyl}-N-phenylpropanamide | 43.4% | COCC1(CCN(CC1)CCC1=CC=CC2=CC=CC=C12)N(C(CC)=O)C1=CC=CC=C1 | C28H34N2O2
